US05792764
2-Isopropylamino-3H-Pyrido[2,3-b][1,4]thiazine
1H-Pyrido[2,3-b][1,4]thiazin-2(3H)-thione (0.5 g) was dissolved in 10 ml of isopropylamine and allowed to stand for 45 min at room temperature. Then the excess of the amine was removed in vacuum and the solid residue was dissolved in 25 ml of ethyl acetate I methanol (4:1), treated with charcoal and filtered through a pad of silica. The filter was eluted with 2×10 ml of ethyl acetate/methanol (4:1). The filtrate was evaporated and the slowly crystallizing residue was triturated with 5 ml of ethyl acetate and then with 3 ml of diethyl ether. The crystals were filtered off and dried to give the title compound; m.p. 135°-139° C. (Compound VII).

reactant | 1H-Pyrido[2,3-b][1,4]thiazin-2(3H)-thione | 0.5 g | N1C2=C(SCC1=S)N=CC=C2 | C7H6N2S2
solvent | isopropylamine | 10 ml | C(C)(C)N | C3H9N
product | 2-Isopropylamino-3H-Pyrido[2,3-b][1,4]thiazine | C(C)(C)NC1=NC2=C(SC1)N=CC=C2 | C10H13N3S
